US08729061B2
Step A5: (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride
Under an atmosphere of argon, tert-butyl (2S,3S)-1-(cyclopropylamino)-2-hydroxy-1-oxopentan-3-ylcarbamate (540 mg, 1.98 mmol) and HCl 4N in dioxane (10.4 ml) were combined to give a light brown solution. The reaction was stirred for 4 h at RT. The solvent was evaporated. The residual solvent was removed under vacuum. The title compound was obtained as a brown solid (480 mg, quant., MS (m/e)=173.2 [M+H+].

reactant | tert-butyl (2S,3S)-1-(cyclopropylamino)-2-hydroxy-1-oxopentan-3-ylcarbamate | 1.98 mmol, 540 mg | C1(CC1)NC([C@H]([C@H](CC)NC(OC(C)(C)C)=O)O)=O | C13H24N2O4
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 10.4 ml | O1CCOCC1 | C4H8O2
product | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NC1CC1)O)CC | InChI=1S/C8H16N2O2.2ClH/c1-2-6(9)7(11)8(12)10-5-3-4-5;;/h5-7,11H,2-4,9H2,1H3,(H,10,12);2*1H/t6-,7-;;/m0../s1
